US05968967
1-t-Butoxycarbonyl-4-ethoxycarbonylmethoxypiperidine
A mixture of 10.05 g of 1-t-butoxycarbonyl-4-hydroxypiperidine and 50 ml of tetrahydrofuran was stirred with 2.6 g of sodium hydride at room temperature for 30 minutes and then cooled to 0° C. A liquid mixture of 10.02 g of ethyl bromoacetate and 50 ml of tetrahydrofuran was added, and the reaction solution was stirred for 13.5 hours. After addition of saturated ammonium chloride, the reaction solution was extracted with chloroform. The extract was dried over anhydrous sodium sulfate, the insolubles were filtered off, and the solvent was removed by evaporation. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/normal hexane=1:3→1:1) to give 6.28 g of the title compound as a pale yellow liquid.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 10.05 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | ethyl bromoacetate | 10.02 g | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-t-Butoxycarbonyl-4-ethoxycarbonylmethoxypiperidine | 6.28 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)OCC | C14H25NO5
